US09126952B2
Under a nitrogen atmosphere, 1.25 ml (17.62 mmol) of thiazole were dissolved in 20 ml of tetrahydrofuran at −70° C. 11.1 ml (17.62 mmol) [15% in n-hexane] were subsequently added dropwise at such a rate that the temperature did not exceed −67° C. The mixture was warmed to room temperature, then cooled to −70° C., and 3.76 g (17.62 mmol) of tert-butyl 3-formylpiperidine-1-carboxylate, dissolved in 5 ml of tetrahydrofuran, were added dropwise. The mixture was stirred at −70° C. for 1 h, warmed to room temperature and stirred for a further 2 h. Conventional work-up gave 5.18 g of tert-butyl 3-(hydroxythiazol-2-ylmethyl)-piperidine-1-carboxylate; HPLC/MS (M+H)+=299 as oil.

reactant | thiazole | 17.62 mmol, 1.25 ml | S1C=NC=C1 | C3H3NS
reactant | tert-butyl 3-formylpiperidine-1-carboxylate | 17.62 mmol, 3.76 g | C(=O)C1CN(CCC1)C(=O)OC(C)(C)C | C11H19NO3
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | tert-butyl 3-(hydroxythiazol-2-ylmethyl)-piperidine-1-carboxylate | 5.18 g | OC(C1CN(CCC1)C(=O)OC(C)(C)C)C=1SC=CN1 | C14H22N2O3S
